US05206418
5.5 ml of 2M borane-methylsulfide complex in tetrahydrofuran are added to a solution of 1.31 g of ethyl 6-methoxyimino-5,6,7,8-tetrahydronaphthalene-2-acetate in tetrahydrofuran under argon at -5° to 0° C., and the mixture is stirred at room temperature overnight. Ethanol and 9% hydrogen chloride-ethanol are added to the mixture under cooing and stirring, and the mixture is stirred at room temperature for 30 minutes. After the solvent is distilled off, the residue is crystallized with a mixture of ethanol and ether to give 990 mg of 2-(6-amino-5,6,7,8-tetrahydronaphthalene-2-yl)ethanol hydrochloride as colorless solid.

reactant | ethyl 6-methoxyimino-5,6,7,8-tetrahydronaphthalene-2-acetate | 1.31 g | CON=C1CC=2C=CC(=CC2CC1)CC(=O)OCC | C15H19NO3
reactant | Ethanol | C(C)O | C2H6O
reactant | hydrogen chloride ethanol | Cl.C(C)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(6-amino-5,6,7,8-tetrahydronaphthalene-2-yl)ethanol hydrochloride | 990 mg | Cl.NC1CC=2C=CC(=CC2CC1)CCO | InChI=1S/C12H17NO.ClH/c13-12-4-3-10-7-9(5-6-14)1-2-11(10)8-12;/h1-2,7,12,14H,3-6,8,13H2;1H
